US06500863B1
N-[2-(tert-butoxycarbonylamino)ethyl]-2,6-dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (1.0 g, 3.44 mmol), t-butyl N-(2-aminoethyl)carbamate (0.5 g, 3.44 mmol) and triethylanine(0.72 mL, 5.16 mmol) were reacted to form the desired product (1.29 g, 90%). 1H NMR (MeOD-d4): δ 7.93 (d, 1H), 7.78 (d, 1H), 3.12 (m, 4H), 1.41 (s, 9H).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 3.44 mmol, 1.0 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | t-butyl N-(2-aminoethyl)carbamate | 3.44 mmol, 0.5 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
product | N-[2-(tert-butoxycarbonylamino)ethyl]-2,6-dichloro-3-nitrobenzenesulfonamide | 1.29 g, 90% | C(C)(C)(C)OC(=O)NCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C13H17Cl2N3O6S
